US07932251B2
To oxazolidin-2-one (29.7 mg) in NMP (1 ml) was added sodium hydride is (60% in parafin oil, 13.6 mg). After stirring at room temperature for 10 minutes, 2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl methanesulfonate (100 mg) was then added and the mixture was stirred at room temperature for 14 hours. The mixture was purified directly using HPLC to give 1-methyl-6-{4-[2-(2-oxooxazolidin-3-yl)-ethoxy]-3-(trifluoromethyl)-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile (10 mg).

reactant | oxazolidin-2-one | 29.7 mg | O1C(NCC1)=O | C3H5NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl methanesulfonate | 100 mg | CS(=O)(=O)OCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C18H15F3N4O4S
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 1-methyl-6-{4-[2-(2-oxooxazolidin-3-yl)-ethoxy]-3-(trifluoromethyl)-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 10 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCN2C(OCC2)=O)C(F)(F)F)C#N | C20H16F3N5O3
